US06011028
2-(2-propenyl)cycloheptanone
To a mechanically stirred mixture of potassium t-butoxide (Aldrich, 67.0 g, 0.6 mol) in benzene (600 mL) cooled to 0° C. under a nitrogen atmosphere was added cycloheptanone (Aldrich, 56.1 g, 0.5 mol) dropwise over 15 minutes. Ten minutes after the addition was complete, allyl bromide (Aldrich, 61.6 g, 0.51 mol) was added dropwise over 20 minutes. The reaction was warmed to room temperature, refluxed or 7 hrs., stirred at room temperature for 18 hrs., and diluted with 0.5 N KHSO4 (300 mL). This mixture was further diluted with Et2O (600 mL), 3.5 N KHSO4 (200 mL) and H2O (200 mL) before the organic was separated, washed with H2O (200 mL) and brine (200 mL), dried (Na2SO4), filtered, and stripped of all solvent under reduced pressure. The crude product (76.1 g) was distilled to yield 24.4 g (32%) of the title material (bp=104-108° C., 25 mm of Hg).

reactant | potassium t-butoxide | 0.6 mol, 67.0 g | CC(C)([O-])C.[K+]
reactant | cycloheptanone | 0.5 mol, 56.1 g | C1(CCCCCC1)=O | C7H12O
reactant | allyl bromide | 0.51 mol, 61.6 g | C(C=C)Br | C3H5Br
solvent | benzene | 600 mL | C1=CC=CC=C1 | C6H6
solvent | KHSO4 | 0.5 N, 300 mL | OS(=O)(=O)[O-].[K+]
solvent | Et2O | 600 mL | CCOCC | C4H10O
solvent | KHSO4 | 3.5 N, 200 mL | OS(=O)(=O)[O-].[K+]
solvent | H2O | 200 mL | O | H2O
product | 2-(2-propenyl)cycloheptanone | 24.4 g, 32% | C(C=C)C1C(CCCCC1)=O | C10H16O
